US07533723B2
Abietate in Pure Diesel
The plot of FIG. 9 deals with the performance in water zones at 50° C. (Berea sandstone, k 100-150 mD; brine: 5 wt % NH4Cl in DI water) of the oil-based system (no miscibility with water/brine). The system contained 30 wt % calcium abietate dissolved in diesel.

reactant | NH4Cl | [NH4+].[Cl-]
reactant | water brine | O.[Cl-].[Na+].O
reactant | calcium abietate | CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)[O-])C.CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)[O-])C.[Ca+2]
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | Abietate | CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)O)C | C20H30O2
